US07538931B2
Hai=1-Ethyl-1H-imidazo[4,5-b]pyridine
To a flask were added 0.5 g 4-azabenzimidazole and 10 ml N,N-dimethylformamide and the mixture was cooled to 10 C under nitrogen. 0.18 g Sodium hydride were added in portions and the reaction mixture was stirred for 20 minutes. 0.71 g Diethylsulfate were added and the mixture was allowed to warm to 22 C and was stirred for 16 hours. The mixture was quenched slowly with 30 ml 1M hydrochloric acid and the aqueous layer was washed with ethyl acetate. After basification with sodium hydroxide, the product was extracted twice with ethyl acetate and dried over sodium sulfate. Following filtration and solvent removal, the product was purified by silica gel chromatography using 5% methanol in ethyl acetate to 12% methanol in ethyl acetate. 0.4 g Of an oil was obtained.

reactant | 4-azabenzimidazole | 0.5 g | N1=CNC2=C1C=CC=N2 | C6H5N3
reactant | Sodium hydride | 0.18 g | [H-].[Na+]
reactant | Diethylsulfate | 0.71 g | C(C)OS(=O)(=O)OCC | C4H10O4S
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-Ethyl-1H-imidazo[4,5-b]pyridine | 0.4 g | C(C)N1C=NC2=NC=CC=C21 | C8H9N3
